US08871943B2
To a mixture of 4,5-dichloro-6-(4-chlorophenyl)picolinic acid (3.00 g, 9.9 mmol) in toluene (25 mL) was added thionyl chloride (1.08 mL, 14.9 mmol) and dimethylformamide (0.04 mL, 0.5 mmol). Reaction mixture was heated at 80° C. for 2.5 h. HPLC analysis of an aliquot of the reaction mixture treated with methanol and dimethylaminopyridine indicated starting material remaining Reaction mixture was allowed to cool to rt and additional thionyl chloride (0.5 mL, 6.9 mmol) and dimethylformamide (0.04 mL, 0.5 mmol) were added. Reaction was heated at 80° C. for 2 h. Reaction was allowed to cool to room temperature and concentrated under reduced pressure to provide a white solid. Toluene (40 mL) was added to dissolve the solid and concentrated under reduced pressure and then this process was performed a second time. 4,5-Dichloro-6-(4-chlorophenyl)picolinoyl chloride was isolated as a white solid (3.05 g, 96% yield). 1H NMR (400 MHz, CDCl3) δ 8.15 (s, 1H), 7.79-7.72 (m, 2H), 7.53-7.46 (m, 2H); 13C NMR (101 MHz, CDCl3) δ 168.66, 157.63, 146.48, 145.44, 136.35, 135.10, 134.28, 131.04, 128.63, 124.90. MS Calcd. for C12H5Cl4NO: 320.91. Found: 257, 222, 207, 186, 151.

reactant | 4,5-dichloro-6-(4-chlorophenyl)picolinic acid | 9.9 mmol, 3.00 g | ClC1=CC(=NC(=C1Cl)C1=CC=C(C=C1)Cl)C(=O)O | C12H6Cl3NO2
reactant | thionyl chloride | 14.9 mmol, 1.08 mL | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.5 mmol, 0.04 mL | CN(C=O)C | C3H7NO
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | thionyl chloride | 6.9 mmol, 0.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 0.5 mmol, 0.04 mL | CN(C=O)C | C3H7NO
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 4,5-Dichloro-6-(4-chlorophenyl)picolinoyl chloride | ClC1=CC(=NC(=C1Cl)C1=CC=C(C=C1)Cl)C(=O)Cl | C12H5Cl4NO
